US08937087B2
Under an argon atmosphere, to a mixture of 5-chloro-1,3-benzoxazol-2(3H)-one (50.0 g) and acetone (750 mL) were added K2CO3 (61.1 g) and tert-butyl bromoacetate (52.3 mL) at room temperature, followed by heating to reflux for 1.5 hours. The reaction mixture was filtered while hot, and washed with acetone. The filtrate and the washed solution were combined and concentrated under reduced pressure. The obtained solid was stirred with a mixed solvent of Hex/EtOAc (6/1) and collected by filtration, and further stirred with water and collected by filtration to obtain tert-butyl (5-chloro-2-oxo-1,3-benzoxazol-3(2H)-yl)acetate (81.1 g).

reactant | 5-chloro-1,3-benzoxazol-2(3H)-one | 50.0 g | ClC=1C=CC2=C(NC(O2)=O)C1 | C7H4ClNO2
reactant | K2CO3 | 61.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl bromoacetate | 52.3 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | acetone | 750 mL | CC(=O)C | C3H6O
product | tert-butyl (5-chloro-2-oxo-1,3-benzoxazol-3(2H)-yl)acetate | 81.1 g | ClC=1C=CC2=C(N(C(O2)=O)CC(=O)OC(C)(C)C)C1 | C13H14ClNO4
